Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Post-procedure pain, nausea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo F with PMH of adenomyosis, obesity, NASH, 
and
hyperglycemia being admitted for pain and nausea after scheduled
uterine artery embolization by ___. 

She has known US-confirmed adenomyosis and with significant
menometrorrhagia that was not improved with nuva ring. She has
not been anemic (Hgb 12.0 in ___ post-op). She underwent
scheduled bilateral UAE today under moderate sedation via L
radial access. The procedure itself was uneventful per ___. Her
post-procedure course has been notable for significant pain and
nausea requiring IV management. She has been hemodynamically
stable throughout. 

She was given IV pain meds and Zofran in the PACU. Upon arrival
to the floor,she reports that her pain has been alleviated but
not eliminated. It is primarily dull lower abdominal pain, ___
at present, similar in location but worse in intensity than the
pain she gets with her period.  She has also had some
intermittent nausea but denies any at present. Otherwise, she
denies chest pain/SOB, fevers/chills, or other symptoms. She 
does
endorse some minimal R back/flank pain that she has had before.
She denies significant pain in the L wrist around the access
site. 
 
Past Medical History:
adenomyosis
Morbid Obesity
NASH
hyperglycemia
Anxiety 
Headache
 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   Living   ___  BREAST CANCER              Breast CA @    

Father   Living   ___  PROSTATE CANCER                           
                      HYPERTENSION                              

Sister   Living       HYPERTENSION                              
                      DIABETES MELLITUS                         

Brother  Living                                                 
Son      Living   ___                                            
Daughter Living   ___  

 
Physical Exam:
==============
ADMISSION EXAM
==============
VITALS:
___ Temp: 98.4 PO BP: 110/72 Lying HR: 100 RR: 16 O2
sat: 96% O2 delivery: ra 
GENERAL: Lying on bed, alert, in no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Breathing comfortably on room air. Clear to auscultation
bilaterally without wheezes, rhonchi or rales. 
BACK: Mild tenderness to palpation of R paravertebral muscles, 
no
CVA tenderness.
ABDOMEN: Normal bowel sounds, non-distended, soft and moderately
tender to palpation, most notable in the lower abdomen. Stretch
marks present. Foley in place with clear, yellow urine. 
EXTREMITIES: No clubbing or cyanosis. Minimal pedal edema. DP
pulses 2+ bilaterally. L wrist access site with no surrounding
edema or hematoma. 
SKIN: Warm. No rashes.
NEUROLOGIC: CN2-12 intact. Strength grossly intact, sensation
intact to light touch. Gait not tested. A&Ox3. 

==============
DISCHARGE EXAM
==============
VITALS:
T 98.3, BP 113/79, HR 88, RR 20, O2 Sat 98% on room air   
GENERAL: Lying on bed, alert, in no acute distress.
HEENT: NCAT. Sclera anicteric and without injection.
CARDIAC: Regular rhythm, tachycardic. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Breathing comfortably on room air. Clear to auscultation
bilaterally without wheezes, rhonchi or rales. 
ABDOMEN: Normal bowel sounds, non-distended, soft and moderately
tender to palpation, most notable in the lower abdomen, without 
rebound. 
EXTREMITIES: Warm and well perfused. No pitting edema. 
NEUROLOGIC: A&Ox3.
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 08:00AM URINE  UCG-NEGATIVE
___ 09:20AM   ___
___ 09:20AM   PLT COUNT-325
___ 09:20AM   WBC-9.6 RBC-4.39 HGB-12.2 HCT-36.8 MCV-84 
MCH-27.8 MCHC-33.2 RDW-13.5 RDWSD-41.1
___ 09:20AM   CREAT-0.6
___ 09:15PM   PLT COUNT-314
___ 09:15PM   WBC-10.8* RBC-4.16 HGB-11.4 HCT-33.7* MCV-81* 
MCH-27.4 MCHC-33.8 RDW-13.2 RDWSD-38.9
___ 09:15PM   CALCIUM-8.6 PHOSPHATE-3.5 MAGNESIUM-1.5*
___ 09:15PM   GLUCOSE-151* UREA N-5* CREAT-0.5 SODIUM-134* 
POTASSIUM-3.8 CHLORIDE-96 TOTAL CO2-21* ANION GAP-17

============
MICROBIOLOGY
============
None

=======
STUDIES
=======
FINDINGS:  
  
1.  Right  uterine artery supplying uterus, a right ovarian 
artery and vaginal 
artery.  Embolization performed from the distal uterine artery 
to avoid 
embolizing ovarian and vaginal arteries. 
2.  Left  uterine artery supplying the fibroid uterus and left 
ovarian artery, 
with its origin too distal to cross. 
3. Post-procedure uterus  staining and near stasis confirming 
successful 
imaging end point. 
  
IMPRESSION:  
  
Left radial artery access bilateral uterine artery particle 
embolization to 
near stasis. 

==============
DISCHARGE LABS
==============

___ 07:39AM BLOOD WBC-13.3* RBC-4.13 Hgb-11.4 Hct-34.5 
MCV-84 MCH-27.6 MCHC-33.0 RDW-13.7 RDWSD-41.2 Plt ___
___ 07:39AM BLOOD Glucose-107* UreaN-7 Creat-0.5 Na-140 
K-3.7 Cl-103 HCO3-22 AnGap-15
___ 07:39AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.7*
 
Brief Hospital Course:
Ms. ___ is a ___ female with PMH adenomyosis, 
obesity, NASH, and hyperglycemia who was admitted after 
scheduled uterine artery embolization for pain and nausea 
control. 

ACUTE ISSUES:
=============================
# Post-procedure pain, nausea:
# Adenomyosis: Patient had uterine artery embolization on 
___. She had post-procedure abdominal pain and nausea. 
Procedure was uneventful and there were no concerning signs or 
symptoms on exam. CBC was stable and she had no signs of 
bleeding. Pain was managed with ibuprofen, acetaminophen, and 
oxycodone. Nausea was controlled with ondansetron. Her abdominal 
pain and nausea improved. Patient was discharged on ___. 
She reported she had an oxycodone prescription at home thus will 
not give prescription on discharge. She was discharged with 
senna and polyethylene glycol PRN for constipation. WBC was 
elevated on day of discharge but this was thought to be related 
to embolization as patient had no infectious signs or symptoms. 

TRANSITIONAL ISSUES
=============================
[] Follow-up if patient had any episodes of vaginal bleeding s/p 
uterine artery embolization.
[] Would check repeat CBC at follow-up if patient has ongoing 
bleeding. 
[] Will need follow-up pelvic MRI with and without contrast in 3 
months
[] Will need follow-up appointment with ___ in 3 months 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NuvaRing (etonogestrel-ethinyl estradiol) 0.12-0.015 mg/24 hr 
vaginal monthly 
2. Omeprazole 20 mg PO DAILY 
3. Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
Do not take if your stools are loose.  
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth Daily 
Disp #*14 Packet Refills:*0 
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate  
5.  NuvaRing (etonogestrel-ethinyl estradiol) 0.12-0.015 mg/24 
hr vaginal monthly  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adenomyosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

Why was I here?
- You had a procedure called uterine artery embolization to 
decrease your abdominal pain.

What was done for me while I was here?
- Your pain was controlled with pain medicine.
- Your nausea was controlled with anti-nausea medicine.

What should I do when I go home?
- You should take all of your medications as prescribed.
- You should attend all of your follow-up appointments. 

We wish you the best in the future. 

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___